US07160888B2
7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one (1.85 g, 4.16 mmol) was hydrogenated using Ra—Ni (1 g) in EtOH/THF (50 mL) for 1.4 h. The reaction was filtered and concentrated to give a solid. Recrystallization from hot CH3CN gave the title compound as a white solid (1.58 g, 3.54 mmol, 85%). MS: APCI: M+1: 447.1 (Exact Mass: 446.16).

reactant | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 4.16 mmol, 1.85 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC=CC1=CC=C2CCC(NC2=N1)=O | C23H26Cl2N4O
solvent | EtOH THF | 50 mL | CCO.C1CCOC1
catalyst | Ra—Ni | 1 g | [Ni] | Ni
product | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 3.54 mmol, 1.58 g, 85% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC1=CC=C2CCC(NC2=N1)=O | C23H28Cl2N4O
